US03994954
N-Benzyloxycarbonyl-2-(4-methylthiophenyl)glycine n-butyl ester
A solution of 1.6 g. (5.0 mmol.) of N-benzyloxycarbonyl-2-acetoxyglycine n-butyl ester, 1.0 g. (8.0 mmol.) of thioanisole and 10 drops of boron trifluoride etherate in 10 ml. of methylene chloride was stirred at 25° for 2 hours. The reaction mixture was diluted with hexane and chromatographed on silica gel with hexane followed by 1:1 chloroform-hexane to give the title compound.

reactant | N-benzyloxycarbonyl-2-acetoxyglycine n-butyl ester | 5.0 mmol | C(CCC)OC(C(NC(=O)OCC1=CC=CC=C1)OC(C)=O)=O | C16H21NO6
reactant | thioanisole | 8.0 mmol | C1(=CC=CC=C1)SC | C7H8S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | boron trifluoride etherate | 10 drops | B(F)(F)F.CCOCC
solvent | hexane | CCCCCC | C6H14
product | N-Benzyloxycarbonyl-2-(4-methylthiophenyl)glycine n-butyl ester | C(CCC)OC(C(NC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)SC)=O | C21H25NO4S
